US05124472
Dichloro pentaerythritol diphosphite (1 mol) was reacted with 2.05 mol of Abitol in toluene using 2.1 mol of triethyl amine as an acid acceptor. The very viscous liquid product, bis abietyl pentaerythritol diphosphite, was obtained after filtering the triethylamine hydrochloride and stripping the toluene.

reactant | Dichloro pentaerythritol diphosphite | 1 mol | OP(O)OP(O)O.ClC(O)(C(CO)(CO)CO)Cl
reactant | toluene | 2.1 mol | C1(=CC=CC=C1)C | C7H8
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | pentaerythritol diphosphite | OP(O)OP(O)O.OCC(CO)(CO)CO | InChI=1S/C5H12O4.H4O5P2/c6-1-5(2-7,3-8)4-9;1-6(2)5-7(3)4/h6-9H,1-4H2;1-4H
